US08865894B2
Step 24.7: (2S,3R)- and (25,35)-diastereomer of Benzyl (3-hydroxy-5-methylhex-5-en-2-yl)(4-methoxybenzyl)carbamate
The title compound was prepared in analogy to the procedure described for step 23.7 from (S)-benzyl 4-methoxybenzyl(1-oxopropan-2-yl)carbamate and 3-bromo-2-methylprop-1-ene to afford the title compound as a 3:1 mixture of (2S,3R)- and (2S,3S)-diastereomer: tR=1.322 min (major isomer) and 1.329 min (minor isomer) (UPLC 1); tR=1.23 min (major isomer) and 1.24 min (minor isomer) (LC-MS 3); ESI-MS: 384 [M+H]+ (LC-MS 3).

reactant | (S)-benzyl 4-methoxybenzyl(1-oxopropan-2-yl)carbamate | COC1=CC=C(CN(C(OCC2=CC=CC=C2)=O)[C@H](C=O)C)C=C1 | C19H21NO4
reactant | 3-bromo-2-methylprop-1-ene | BrCC(=C)C | C4H7Br
product | Benzyl (3-hydroxy-5-methylhex-5-en-2-yl)(4-methoxybenzyl)carbamate | OC(C(C)N(C(OCC1=CC=CC=C1)=O)CC1=CC=C(C=C1)OC)CC(=C)C | C23H29NO4
